US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-fluoro-phenol to give [1-(4-fluoro-phenoxy)-6-methoxy-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 351(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 4-fluoro-phenol | FC1=CC=C(C=C1)O | C6H5FO
product | [1-(4-fluoro-phenoxy)-6-methoxy-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | FC1=CC=C(OC2=NC(=CC3=CC(=CC=C23)OC)NC2=NNC=C2)C=C1 | C19H15FN4O2
